US07919506B2
Preparation 25: N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine
A mixture of 2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzaldehyde (118 mg, 0.393 mmol) and 2-methyl-2H-tetrazol-5-amine (148 mg, 1.49 mmol) in toluene (3 mL) was heated at reflux for 16 hours, after which solvent was removed to give a gummy solid. Ethanol (3 mL) and sodium borohydride (25 mg; 0.660 mmol) were added to the residue. The resulting mixture was stirred at room temperature for 16 hours. Solvent was evaporated under reduced pressure. The residue was taken up in ethyl acetate and washed twice with water and dried over sodium sulfate and concentrated under reduced pressure. The crude was purified over 4 g RediSep (eluted with 20-60% ethyl acetate in heptane) to give 83 mg (55% yield) of title compound. MS (ES+): Calc: 383.4, Found: 352.3 (M-OMe). 1H NMR (400 MHz, CDCl3) δ ppm 7.84 (s, 1H), 7.48 (dd, J=8.77 Hz, 1H), 7.42 (d, J=8.30 Hz, 1H), 4.92 (d, J=6.22 Hz, 2H), 4.75 (t, J=6.22 Hz, 1H), 4.16 (s, 3H), 3.03 (s, 3H), 2.26 (m, 2H), 2.07 (m, 2H), 1.88-1.77 (m, 2H), 1.75-1.65 (m, 2H), 1.64-1.52 (m, 4H).

reactant | 2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzaldehyde | 0.393 mmol, 118 mg | COC1(CCCCCC1)C1=C(C=O)C=C(C=C1)C(F)(F)F | C16H19F3O2
reactant | 2-methyl-2H-tetrazol-5-amine | 1.49 mmol, 148 mg | CN1N=C(N=N1)N | C2H5N5
reactant | Ethanol | 3 mL | C(C)O | C2H6O
reactant | sodium borohydride | 0.660 mmol, 25 mg | [BH4-].[Na+]
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
product | N-(2-(1-methoxycycloheptyl)-5-(trifluoromethyl)benzyl)-2-methyl-2H-tetrazol-5-amine | 83 mg, 55% yield | COC1(CCCCCC1)C1=C(CNC=2N=NN(N2)C)C=C(C=C1)C(F)(F)F | C18H24F3N5O
